US07767675B2
Step 1. 1-(4-bromo-2-fluorobenzyl)-1H-pyrazole
A mixture of 4-bromo-1-(bromomethyl)-2-fluorobenzene (0.268 g, 1.0 mmol), 1H-pyrazole (0.0681 g, 1.0 mmol) and cesium carbonate (0.489 g, 1.5 mmol) in N,N-dimethylformamide (1.0 mL) was heated at 90° C. for 3 h. After cooling to RT, the mixture was diluted with EtOAc, and filtered. The filtrate was washed with water and brine. The organic layer was dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue (210 mg, 82.3%) was directly used in next step without further purification. LCMS: (M+H)=256.9/254.9.

reactant | 4-bromo-1-(bromomethyl)-2-fluorobenzene | 1.0 mmol, 0.268 g | BrC1=CC(=C(C=C1)CBr)F | C7H5Br2F
reactant | 1H-pyrazole | 1.0 mmol, 0.0681 g | N1N=CC=C1 | C3H4N2
reactant | cesium carbonate | 1.5 mmol, 0.489 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(4-bromo-2-fluorobenzyl)-1H-pyrazole | BrC1=CC(=C(CN2N=CC=C2)C=C1)F | C10H8BrFN2
